US07317037B2
(2-fluoro-6-nitrophenyl)acetic acid (3.3 g, 16.6 mmol) was dissolved in acetic acid (20 mL) and hydrogenated over palladium on carbon (10%, 0.5 g) at 50 psi for 24 hours. The catalyst was removed by filtration through the Celite® reagent, which was washed with methanol, and the combined organics were then evaporated. The reaction mixture was then dissolved in ethanol (100 mL), 50 mg of para-toluenesulfonic acid was added, and the mixture heated under reflux for 1 hour. The mixture was poured into water, extracted with ethyl acetate, dried over magnesium sulfate, and evaporated. The solid was triturated with hexane/ethyl acetate (95/5) to give 1.7 g, 67% of 4-fluoro-1,3-dihydro-2H-indol-2-one: HRMS [M+H]+=152.0515

reactant | (2-fluoro-6-nitrophenyl)acetic acid | 16.6 mmol, 3.3 g | FC1=C(C(=CC=C1)[N+](=O)[O-])CC(=O)O | C8H6FNO4
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
product | 4-fluoro-1,3-dihydro-2H-indol-2-one | 1.7 g, 67% | FC1=C2CC(NC2=CC=C1)=O | C8H6FNO
